US07569578B2
(R)-Methyl 2-hydroxy-3-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)propanoate
To a heterogeneous mixture of 5 M sodium hydroxide (20 mL) and diethyl ether (60 mL) at 0° C. was added N-methyl-N′-nitro-N-nitrosoguanidine (1.17 g, 7.95 mmol) in small portions with swirling (no stirbar). After addition was complete, the mixture was allowed to stand at 0° C. for 15 min with occasional swirling. The ethereal was transferred in portions to a suspension of (R)-2-hydroxy-3-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)propanoic acid (1.40 g, 5.30 mmol) in dichloromethane (20 mL) until the solid had all dissolved and a yellow color persisted. The reaction was allowed to rest at room temperature for ca. 5 min. before bubbling nitrogen through the solution to remove unreacted diazomethane. The reaction was concentrated and purified by column chromatography (50%→75% ethyl acetate/hexanes) to give 1.47 g (100%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 1.60 (bs, 1H), 2.58 (s, 3H), 2.95 (dd, J=13.9, 7.0, 1H), 3.14 (dd, J=13.9, 4.0, 1H), 3.36 (s, 3H), 3.76 (s, 3H), 4.46 (bm, 1H), 5.65 (s, 2H), 6.90 (s, 1H), 7.31 (s, 1H), 7.99 (s, 1H). Mass spec.: 279.11 (MH)+.

reactant | sodium hydroxide | 5 M, 20 mL | [OH-].[Na+]
reactant | diethyl ether | 60 mL | C(C)OCC | C4H10O
reactant | N-methyl-N′-nitro-N-nitrosoguanidine | 7.95 mmol, 1.17 g | CN(C(=N)N[N+](=O)[O-])N=O | C2H5N5O3
reactant | (R)-2-hydroxy-3-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)propanoic acid | 5.30 mmol, 1.40 g | O[C@@H](C(=O)O)CC1=CC2=CN(N=C2C(=C1)C)COC | C13H16N2O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-Methyl 2-hydroxy-3-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)propanoate | O[C@@H](C(=O)OC)CC1=CC2=CN(N=C2C(=C1)C)COC | C14H18N2O4
